US05708123
b) N,N'-bis(2-aminophenyl)-1,8-diamino-3,6-dioxaoctane
26.1 g N,N'-bis(2-nitrophenyl)-1,8-diamino-3,6-dioxaoctane is dissolved in 100 ml concentrated HCl and stirred while 92.5 g SnCl2 dissolved in 100 ml concentrated HCl are added during approximately two minutes. The reaction is exothermal and the temperature rises to 90° C. at the same time as the colour changes from light orange through dark to light green, whereafter a product starts to precipitate. After one hour the reaction mixture is cooled on an ice bath. The crystalline product is filtered off and dissolved in 150 ml water and added to 50 g NaOH in 300 ml ice water. A greenish oil is separated. The product is extracted with 100+50 ml CH2Cl2, dried over MgSO4, and evaporated under vacuum. Yield: 21.7 g (57.9 mmol, N,N'-bis(2-aminophenyl)-1,8-diamino-3,6-dioxaoctane.

reactant | N,N'-bis(2-nitrophenyl)-1,8-diamino-3,6-dioxaoctane | 26.1 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCOCCOCCNC1=C(C=CC=C1)[N+](=O)[O-] | C18H22N4O6
reactant | SnCl2 | 92.5 g | Cl[Sn]Cl
solvent | HCl | 100 ml | Cl | ClH
solvent | HCl | 100 ml | Cl | ClH
product | N,N'-bis(2-aminophenyl)-1,8-diamino-3,6-dioxaoctane | NC1=C(C=CC=C1)NCCOCCOCCNC1=C(C=CC=C1)N | C18H26N4O2
